US04743586
To a hot solution of 154 g of 5-methyl-1H-imidazole-4-carboxylic acid, ethyl ester in 2 liters of absolute ethanol was added dropwise, but rapidly, 100 g of hydrazine hydrate. The solution was stirred at reflux temperature for 3 hours, then 150 ml of hydrazine hydrate was added and the solution was refluxed for 3 days. The mixture was partially evaporated, the solid collected, washed twice with absolute ethanol, then ether and dried, giving 121.3 g of 5-methyl-1H-imidazole-4-carboxylic acid hydrazide.

reactant | 5-methyl-1H-imidazole-4-carboxylic acid, ethyl ester | 154 g | CC1=C(N=CN1)C(=O)OCC | C7H10N2O2
reactant | hydrazine hydrate | 100 g | O.NN
reactant | hydrazine hydrate | 150 ml | O.NN
solvent | ethanol | 2 liters | C(C)O | C2H6O
product | 5-methyl-1H-imidazole-4-carboxylic acid hydrazide | 121.3 g | CC1=C(N=CN1)C(=O)NN | C5H8N4O
